US05021420
2-(3-Chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (28.1 g), triethylamine (14 cc) and 1-(4-fluorophenyl)piperazine (18.8 g) in toluene (300 cc) are heated for 8 hours at boiling point. The mixture is then cooled to a temperature of about 20° C. and stirring is maintained for 15 hours at this temperature. The precipitate formed is separated by filtration and washed with toluene (2 x 50 cc). The filtrate is evaporated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue obtained is purified by flash-chromatography on a silica column, under a current of argon at medium pressure (0.1-1.5 bar) with ethyl acetate as eluant, and recrystallized from boiling acetonitrile (150 cc). 2-{3-[4-(4-Fluorophenyl)-1piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (37.8 g) is obtained, m.p. 95°-97° C.

reactant | 2-(3-Chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 28.1 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 14 cc | C(C)N(CC)CC | C6H15N
reactant | 1-(4-fluorophenyl)piperazine | 18.8 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | toluene | 300 cc | C1(=CC=CC=C1)C | C7H8
product | 2-{3-[4-(4-Fluorophenyl)-1piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 37.8 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H24FN3O2S
